US08222246B2
c) 6-[3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
To a suspension of sodium hydride (813 mg, 18.6 mmol) in 28 mL THF was added a solution of [3-(4-fluoro-phenyl)-5((E)-styryl)-isoxazol-4-yl]-methanol (5.00 g, 16.9 mmol) in THF (52 mL) and stirring was continued for 1 h at room temperature. A solution of methyl 6-chloronicotinate (3.26 g, 18.6 mmol) in THF (52 mL) was added. The mixture was stirred at room temperature for 3 h. Then water (50 mL) was added cautiously and then saturated ammonium chloride solution (150 mL) and water (100 mL). Extraction with ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:4 to 1:1) afforded the title compound (3.88 g, 94%) as a white solid. MS: m/e=431.3 [M+H]+.

reactant | sodium hydride | 18.6 mmol, 813 mg | [H-].[Na+]
reactant | [3-(4-fluoro-phenyl)-5((E)-styryl)-isoxazol-4-yl]-methanol | 16.9 mmol, 5.00 g | FC1=CC=C(C=C1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C18H14FNO2
reactant | methyl 6-chloronicotinate | 18.6 mmol, 3.26 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | THF | 52 mL | C1CCOC1 | C4H8O
solvent | THF | 52 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 6-[3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 3.88 g, 94% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1\C=C\C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C25H19FN2O4
